US05077288
3-(4-Fluorophenacyl)-1-methylpiperidine
25 A solution of 33.7 g of 3-chloromethyl-N-methylpiperidine in 80 ml of tetrahydrofuran is added under nitrogen to 5.55 g of magnesium suspended in 25 ml of tetrahydrofuran. The mixture is brought to reflux for 2 hours, then cooled to 10° C. and a solution containing 30.5 g of 4-fluorobenzonitrile dissolved in 100 ml of tetrahydrofuran is added. The mixture is brought to 40° C. for 3 hours and then hydrolyzed with a solution of 68 ml of hydrochloric acid (d =1.18) in 42 ml of water. The mixture is heated to reflux for 1 hour, cooled and extracted with ethyl ether. After removal of the organic phase, the aqueous phase is alkalinized (pH 9) using caustic soda solution and filtered on celite, and the aqueous phase is extracted with dichloromethane, dried over sodium sulfate and concentrated to obtain an oil.

reactant | 3-chloromethyl-N-methylpiperidine | 33.7 g | ClCC1CN(CCC1)C | C7H14ClN
reactant | magnesium | 5.55 g | [Mg] | Mg
reactant | 4-fluorobenzonitrile | 30.5 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | hydrochloric acid | 68 ml | Cl | ClH
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 42 ml | O | H2O
product | 3-(4-Fluorophenacyl)-1-methylpiperidine | FC1=CC=C(C(CC2CN(CCC2)C)=O)C=C1 | C14H18FNO
